US07067517B2
Methyl-phenyl-carbamic acid 4-trifluoromethylsulfanyl-phenyl ester
The title compound was prepared from 4-trifluoromethylsulfanyl-phenol and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to preparative HPLC (70%, clear oil). HPLC-MS m/z=328.0 (M+1), Rt: 5.16 min.

reactant | 4-trifluoromethylsulfanyl-phenol | FC(F)(F)SC1=CC=C(C=C1)O | C7H5F3OS
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 4-trifluoromethylsulfanyl-phenyl ester | FC(F)(F)SC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C15H12F3NO2S
